### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/Walk): `p.getVert` is `p.support.get`

### PR DESCRIPTION
**Pull request by SnirBroshi**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by SnirBroshi** [comment]
easy

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 1]
```diff
@@ -801,6 +802,20 @@ lemma getVert_eq_support_getElem? {u v : V} {n : ℕ} (p : G.Walk u v) (h : n 
 @[deprecated (since := "2025-06-10")]
 alias getVert_eq_support_get? := getVert_eq_support_getElem?
 
+lemma getVert_eq_support_getD {u v : V} {n : ℕ} (p : G.Walk u v) :
```
Comment (themathqueen) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean]:
```suggestion
lemma getVert_eq_getD_support {u v : V} {n : ℕ} (p : G.Walk u v) :
```

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 2]
```diff
@@ -801,6 +802,20 @@ lemma getVert_eq_support_getElem? {u v : V} {n : ℕ} (p : G.Walk u v) (h : n 
...
+    p.getVert n = p.support.getD n v := by
+  by_cases h : n ≤ p.length
+  · simp [← getVert_eq_support_getElem? p h]
+  exact getVert_of_length_le p (by cutsat) |>.trans <|
+    p.support.getD_eq_default v (length_support _ |>.trans_le <| not_le.mp h) |>.symm
+
+theorem getVert_comp_val_eq_support_get {u v : V} (p : G.Walk u v) :
```
Comment (themathqueen) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean]:
```suggestion
theorem getVert_comp_val_eq_get_support {u v : V} (p : G.Walk u v) :
```

**Comment by bryangingechen** [comment]
Thanks!
bors r+
